US05578627
To a suspension of 0.44 g of 60% (w/w) sodium hydride in 6 ml of N,N-dimethylformamide is dropwise added 15 ml of an N,N-dimethylformamide solution of 4.0 g of (R)-3-methylthio-2-tritylamino-1-propanol over 15 minutes with ice-cooling, and the temperature is gradually elevated to 80° C., after which this is added to a solution of 2.07 g of 3,5-dichloro-1,2-benzoisoxazole in 10 ml of N,N-dimethylformamide. They are subjected to reaction at the same temperature for one hour. After cooling, water and ethyl acetate are added and shaken, and the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=20:1], to obtain 4.4 g of oily (R)-5-chloro-3-(3-methylthio-2-tritylaminopropoxy)-1,2-benzoisoxazole.

reactant | sodium hydride | [H-].[Na+]
reactant | (R)-3-methylthio-2-tritylamino-1-propanol | 4.0 g | CSC[C@@H](CO)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25NOS
reactant | 3,5-dichloro-1,2-benzoisoxazole | 2.07 g | ClC1=NOC2=C1C=C(C=C2)Cl | C7H3Cl2NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-5-chloro-3-(3-methylthio-2-tritylaminopropoxy)-1,2-benzoisoxazole | 4.4 g | ClC=1C=CC2=C(C(=NO2)OC[C@H](CSC)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C30H27ClN2O2S
